US06232310B1
c) 3-Propyl-6-trifluoromethyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide
N-(2-Cyanomethylsulfonyl-5-trifluoromethylphenyl)butyramide (0.41 g) in 0.5 M aqueous NaOH (5 ml) was stirred at room temperature for 2 h. The mixture was cooled to 0° C. and 1M HCl (4 ml) was added. After 30 min the precipitate was collected by filtration and dried to give 0.33 g (85%) of the title compound; mp 199.5-200.5° C.; El SP/MS: 316 (M+); 1H-NMR(CD3OD) δ (ppm): 8.16 (d, 1H); 7.73 (d+s, 2H); 4.88 (br, H2O+NH); (dd, 2H), 1.88 (sextet, 2H), 1.06 ppm (t, 3H).

reactant | N-(2-Cyanomethylsulfonyl-5-trifluoromethylphenyl)butyramide | 0.41 g | C(#N)CS(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)NC(CCC)=O | C13H13F3N2O3S
reactant | HCl | 1M, 4 ml | Cl | ClH
solvent | NaOH | 0.5 M, 5 ml | [OH-].[Na+]
product | 3-Propyl-6-trifluoromethyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide | 0.33 g, 85% | C(CC)C1=C(S(C2=C(N1)C=C(C=C2)C(F)(F)F)(=O)=O)C#N | C13H11F3N2O2S
